US04758552
Preparation of Z-Arg(NO2)-Pro-NHEt (molecular weight: 465.47)
7.33 g (29.7 mmoles) of Z-Arg(NO2)-OH and 1.034 g of N-hydroxy-benzotriazole are added to a solution containing 3.24 g (22.8 mmoles) of proline ethylamide in 70 ml of THF. The reaction mixture is cooled in an iced water bath and 5.34 g (25.8 mmoles) of DCC dissolved in 50 ml of THF are portionwise added under stirring. The mixture is stirred under cooling with ice for 5 hours, at room temperature for additional 20 hours, then filtered and washed with THF. The filtrate is evaporated under reduced pressure, the residue is dissolved in chloroform and successively washed 3 times with 35 ml of an 1:5 mixture of ammonium hydroxide with water each, twice with 20 ml of water each, 3 times with 35 ml of 1N hydrochloric acid each and finally twice with 20 ml of water each. The chloroformic solution is dried over anhydrous sodium sulfate, filtered, washed with chloroform, then the filtrate is evaporated. The residue is dissolved in a mixture of 35 ml of THF and 50 ml of ethyl acetate, filtered and washed with 30 ml of an 1:2 mixture of THF with ethyl acetate. After evaporating the solution, 100 ml of ethyl ether are added to the solid foamy residue. The thus-obtained product is filtered, washed with ether and dried under reduced pressure to afford 9.69 g (98% yield) of the aimed compound, m.p.: 125° C.

reactant | Z-Arg(NO2)-OH | 29.7 mmoles, 7.33 g | N([C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)O)C(=O)OCC1=CC=CC=C1 | C14H19N5O6
reactant | N-hydroxy-benzotriazole | 1.034 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | proline ethylamide | 22.8 mmoles, 3.24 g | C(C)NC([C@H]1NCCC1)=O | C7H14N2O
reactant | DCC | 25.8 mmoles, 5.34 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | THF | 70 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | Z-Arg(NO2)-Pro-NHEt | 9.69 g, 98% yield | N([C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)N1[C@H](C(=O)NCC)CCC1)C(=O)OCC1=CC=CC=C1 | C21H31N7O6
